US08957064B2
3-bromo-6-(4-fluorophenyl)-7-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-imidazo[1,2-a]pyrimidine
133 mg (0.24 mmol) 6-(4-fluorophenyl)-7-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-imidazo[1,2-a]pyrimidine are dissolved in 2.5 mL chloroform. After addition of 65.2 mg (0.37 mmol) N-bromosuccinimide the reaction mixture is heated for three hours at reflux. The solvent is evaporated and the residue purified by chromatography on silicagel (eluents: dichloromethane/methanol) yielding 97.5 mg (60.8%) of the desired product.

reactant | 6-(4-fluorophenyl)-7-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-imidazo[1,2-a]pyrimidine | 0.24 mmol, 133 mg | FC1=CC=C(C=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC(=CC=C2)C | C32H29FN8
reactant | N-bromosuccinimide | 0.37 mmol, 65.2 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 2.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-6-(4-fluorophenyl)-7-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-imidazo[1,2-a]pyrimidine | 97.5 mg, 60.8% | BrC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC(=CC=C2)C)C2=CC=C(C=C2)F | C32H28BrFN8
